US07968720B2
[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (7.50 g, 16.2 mmol) was dissolved in MeOH (323 mL). Aq. 1M NaOH (161 mL) was added, and the mixture was heated to reflux for 1 h. The solvents were partially removed under reduced pressure, and the aq. residue was diluted with water (900 mL). The mixture was extracted with Et2O (3×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield to crude title compound (4.60 g, 81%) that was used further without purification. LC-MS: tR=1.00 min; ES+: 317.31.

reactant | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 16.2 mmol, 7.50 g | C(C)(C)(C)OC(N(CC(F)F)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H36ClF2NO3Si
reactant | NaOH | 1M, 161 mL | [OH-].[Na+]
solvent | MeOH | 323 mL | CO | CH4O
product | [2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester | 4.60 g, 81% | C(C)(C)(C)OC(N(CC(F)F)CCC1=CC(=C(C=C1)Cl)CO)=O | C16H22ClF2NO3
